US07910592B2
A roundbottom flask was charged with methyl (3-bromo-4-fluorophenyl)acetate (prepared from the corresponding acid by treatment with TMS diazomethane) (192.4 mg, 0.78 mmol), bis(pinacolato)diboron (247 mg, 0.973 mmol), bis(tricyclohexylphosphine) palladium (0) (52 mg, 0.078 mmol), KOAc (153 mg, 1.56 mmol), and dioxane (6 mL). The reaction was degassed with N2 and heated at 80° C. for 2 hours. The reaction was diluted with EtOAc (50 mL) and washed with water (3×25 mL) and brine (25 mL). The organic layer was dried (Na2SO4), filtered, and concentrated. Purification of the reside by flash chromatography afforded methyl [4-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetate. 1H NMR (500 MHz, CDCl3): δ 7.61 (dd, J=5.7, 2.4 Hz, 1H), 7.35 (m, 1H), 6.99 (t, J=8.7 Hz, 1H), 3.69 (s, 3H), 3.60 (s, 2H), 1.36 (s, 12H).

reactant | methyl (3-bromo-4-fluorophenyl)acetate | BrC=1C=C(C=CC1F)CC(=O)OC | C9H8BrFO2
reactant | TMS diazomethane | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | bis(pinacolato)diboron | 0.973 mmol, 247 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 1.56 mmol, 153 mg | CC(=O)[O-].[K+]
catalyst | bis(tricyclohexylphosphine) palladium (0) | 0.078 mmol, 52 mg | [Pd].C1(CCCCC1)P(C1CCCCC1)C1CCCCC1.C1(CCCCC1)P(C1CCCCC1)C1CCCCC1
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | methyl [4-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetate | FC1=C(C=C(C=C1)CC(=O)OC)B1OC(C(O1)(C)C)(C)C | C15H20BFO4
